US06982274B2
To a solution of 0.11 ml ethyl diethylphosphonoacetate in 5 ml N,N-dimethylformamide was added 20 mg of sodium hydride (60% oily) under ice-cooling, and the mixture was stirred for 15 minutes. To the reaction mixture was added a solution of 150 mg of tert-butyl 3-(3-fluorophenyl)-5-formyl-1H-1-indazolecarboxylate in 1 ml N,N-dimethylformamide, followed by stirring at room temperature for 30 minutes. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 0.16 g of tert-butyl 5-[(E)-3-ethoxy-3-oxo-1-propenyl]-3-(3-fluorophenyl)-1H-1-indazolecarboxylate as a colorless oil. This product was dissolved in 2 ml of tetrahydrofuran, 0.1 ml of 5 N hydrochloric acid was added and the mixture was stirred at room temperature for 1 hour. To the reaction mixture was added saturated aqueous sodium hydrogencarbonate solution, and the mixture was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 0.14 g of the title compound as a colorless powder.

reactant | ethyl diethylphosphonoacetate | 0.11 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | tert-butyl 3-(3-fluorophenyl)-5-formyl-1H-1-indazolecarboxylate | 150 mg | FC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C=O)C(=O)OC(C)(C)C | C19H17FN2O3
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | tert-butyl 5-[(E)-3-ethoxy-3-oxo-1-propenyl]-3-(3-fluorophenyl)-1H-1-indazolecarboxylate | 0.16 g | C(C)OC(/C=C/C=1C=C2C(=NN(C2=CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)F)=O | C23H23FN2O4
